US07687515B2
1-(3-Bromo-propyl)-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile was dissolved in DMF (0.5 ml) and morpholine (19 mg, 0.22 mmol) was added. The mixture was heated to 120° C. in a Smith Creator microwave. Mixture was diluted with methanol and passed through an SCX cartridge, then eluted with 2M methanolic ammonia. Mixture was then prep HPLC purified and acetonitrile was removed under reduced pressure. Resulting aqueous solution was made basic with sodium bicarbonate, extracted into DCM (5 ml), then organics were dried and evaporated to afford 6-(4-ethoxy-3-trifluoromethyl-phenyl)-1-(3-morpholin-4-yl-propyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile as a white solid (8 mg). 1H NMR (CDCl3) δ 8.25 (d, 1H), 8.18 (s, 1H), 8.14 (s, 1H), 7.89 (s, 1H), 7.11 (d, 1H), 4.42 (t, 2H), 4.21 (q, 2H), 3.71 (m, 4H), 2.37 (m, 4H), 2.26 (t, 2H), 2.08 (m, 2H), 1.49 (t, 3H). MS m/z 460.6 (M+1).

reactant | 1-(3-Bromo-propyl)-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | BrCCCN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCC)C(F)(F)F)C#N | C19H16BrF3N4O
reactant | morpholine | 0.22 mmol, 19 mg | N1CCOCC1 | C4H9NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 6-(4-ethoxy-3-trifluoromethyl-phenyl)-1-(3-morpholin-4-yl-propyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 8 mg | C(C)OC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2CCCN2CCOCC2)C(F)(F)F | C23H24F3N5O2
